US06211234B1
Sodium hydride (4.7 g, 60% dispersion in mineral oil) is added portionwise over 15 minutes to a solution of 4-iodosalicylic acid (15.4 g) in dry dimethylformamide (150 mL). After stirring for 40 minutes benzyl bromide (19.9 g) is added and the mixture heated at 60° C. for 1.5 hours. The reaction mixture is evaporated and the residue partitioned between chloroform and water. The organic phase is dried over magnesium sulphate, evaporated and the residue triturated with ether to give benzyl 2-benzyloxy-4-iodobenzoate (14.2 g) as a cream coloured solid.

reactant | Sodium hydride | 4.7 g | [H-].[Na+]
reactant | 4-iodosalicylic acid | 15.4 g | IC=1C=C(C(C(=O)O)=CC1)O | C7H5IO3
reactant | benzyl bromide | 19.9 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | benzyl 2-benzyloxy-4-iodobenzoate | 14.2 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)I | C21H17IO3
